US08217052B2
4-But-3-enyl-tetrahydro-pyran-4-carboxylic acid methyl ester
In a 250-mL round bottom flask was weighed 6.1 g (60 mmol) of diisopropylamine and dissolved in THF. This solution was cooled to −78° C. To this was added 24 mL of 2 M butyllithium in hexane and stirred for 15 min, warmed up to 0° C. for 20 min, re-cooled to −78° C. To this was added tetrahydro-pyran-4-carboxylic acid methyl ester (7.2 g, 50 mmol) in THF (10 mL). There was almost no color change (light a little bit). This was stirred at −78° C. for 45 min. Then, a mixture of 5 g of HMPA and bromo-butene (8.78 g, 65 mmol) was added via cannula at −78° C. There was no noticeable change. About half was added, the ice-acetone bath was removed. When addition was complete, the flask was submerged into an ice-water bath, stirred for 20 min; then, rt for 2 h. TLC (EtOAc/Heptane 1:1, paraldehyde visualization) showed the reaction was complete. The reaction mixture was poured into ice-water (100 mL) and ether (50 mL). The two layers were separated; the aqueous layer was extracted with ether (3×50 mL). The combined organic layers were washed with brine, dried (K2CO3), filtered, and concentrated in vacuo to obtain 10.4 g (87%) of the title product as a slightly yellow liquid. The material is pure enough to be used in the next step reaction without further purification.

reactant | diisopropylamine | 60 mmol, 6.1 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 2 M, 24 mL | C(CCC)[Li]
reactant | tetrahydro-pyran-4-carboxylic acid methyl ester | 50 mmol, 7.2 g | COC(=O)C1CCOCC1 | C7H12O3
reactant | bromo-butene | 65 mmol, 8.78 g | BrC=CCC | C4H7Br
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | HMPA | 5 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 4-But-3-enyl-tetrahydro-pyran-4-carboxylic acid methyl ester | 10.4 g, 87% | COC(=O)C1(CCOCC1)CCC=C | C11H18O3
